US07410971B2
Spiro[4.5]dec-6-en-8-one
To a solution of cyclopentanecarbaldehyde (10 g, 100 mmol) in toluene (100 mL) were added methyl vinyl ketone (7.8 g, 110 mmol) and p-toluenesulfonic acid (1.9 g, 10 mmol), and the mixture was stirred at 120° C. for 3 hours, using a Dean-Stark apparatus to remove water. The reaction mixture was air-cooled to room temperature, then saturated aqueous sodium hydrogencarbonate was added, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give 6.0 g of the title compound as a red oil.

reactant | cyclopentanecarbaldehyde | 100 mmol, 10 g | C1(CCCC1)C=O | C6H10O
reactant | methyl vinyl ketone | 110 mmol, 7.8 g | C(=C)C(=O)C | C4H6O
reactant | p-toluenesulfonic acid | 10 mmol, 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Spiro[4.5]dec-6-en-8-one | 6.0 g | C1CCCC12C=CC(CC2)=O | C10H14O
